US04605674
Ethyl chloroformate (216 mg) was added dropwise to a solution of 2'-hydroxy-4,4',6'-trimethoxychalcone (314 mg) in 5 ml of pyridine. After stirring at room temperature for 30 minutes, the mixture was poured into water (30 ml). The mixture was extracted with three 30 ml portions of chloroform, and the combined extracts were washed with water, dried over Na2SO4 and evaporated to give an oily residue. Crystallization of the residue from methanol gave 202 mg (53% yield) of 2'-(ethoxycarbonyloxy)4,4',6'-trimethoxychalcone as pale yellow prisms; m.p. 107° C.

reactant | Ethyl chloroformate | 216 mg | ClC(=O)OCC | C3H5ClO2
reactant | 2'-hydroxy-4,4',6'-trimethoxychalcone | 314 mg | OC1=C(C(C=CC2=CC=C(C=C2)OC)=O)C(=CC(=C1)OC)OC | C18H18O5
reactant | water | 30 ml | O | H2O
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 2'-(ethoxycarbonyloxy)4,4',6'-trimethoxychalcone | 202 mg, 53% yield | C(C)OC(=O)OC1=C(C(C=CC2=CC=C(C=C2)OC)=O)C(=CC(=C1)OC)OC | C21H22O7
